US05952328
N-Benzoyl-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid
This compound was prepared according to Hein et. al., J. Amer. Chem. Soc.; 1962, 84, 4487-4494, incorporated by reference herein in its entirety. Thus, a slurry of 1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid hydrochloride (20.3 g, 95 mmol) in 2N NaOH (150 ml) was treated with benzoyl chloride (13.4 ml, 114 mmol) dropwise over 30 minutes. The mixture was stirred a further 1.5 hours, acidified to pH 2-3 (4N HCl), and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated to afford 16.4 g (61) of the title compound following recrystallization (acetone/water); MS: 280 m/z (M-H)-.

reactant | 1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid hydrochloride | 95 mmol, 20.3 g | Cl.C1NC(CC2=CC=CC=C12)C(=O)O
reactant | benzoyl chloride | 114 mmol, 13.4 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | HCl | 4N | Cl | ClH
solvent | NaOH | 2N, 150 ml | [OH-].[Na+]
product | N-Benzoyl-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | C(C1=CC=CC=C1)(=O)N1CC2=CC=CC=C2CC1C(=O)O | C17H15NO3
